Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
HEMATURIA
 
Major Surgical or Invasive Procedure:
NONE during this re-admission
___:  Cystoscopy, bladder biopsy, and resection of bladder 
tumor.
 
History of Present Illness:
___ status post angioplasty ___ (requiring ongoing Plavix and 
Aspirin) presented to ED with hematuria less than 24hrs s/p 
cystoscopy, TURBT, bladder fulgeration. ED placed 3-way foley 
and intitiated continuous bladder irrigation.

 
Past Medical History:
1. Hypercholesterolemia
2. CAD. ___: stenting of ostial and proximal LAD with two
cypher stents.
3. Ventricular tachycardia
4. Obesity
5. Wisdom teeth extraction

___: Procedures: PTCA/stent of proximal LAD for in-stent 
restenosis. Indications: Angina pectoris, CAD, known in-stent 
restenosis from recent cath. 

On ___ he underwent outpatient cardiac catheterization 
(right radial). Angiography revealed:
-LM normal
-LAD long segment of previously deployed stent extending back to
the ostium with a 90% ostial and a 60% diffuse ISR. Tandem 50%
stenoses in the mid segment. 100% distal occlusion, filling via
collaterals
-Cx large, dominant vessel. 40% ostial. 70% OM1, 50% Om2, 80%
left PDA
-RCA: small, non dominant. 70% diffuse disease and distal
occlusion.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
WDWN, NAD, AVSS
abdomen soft, nt/nd, obese
foley catheter place, secured to medial thigh
extremities w/out edema, pitting
 
Pertinent Results:
___ 02:30PM BLOOD WBC-9.8 RBC-3.08* Hgb-9.7* Hct-27.1* 
MCV-88 MCH-31.3 MCHC-35.7* RDW-13.6 Plt ___
___ 06:10AM BLOOD WBC-9.0 RBC-3.27*# Hgb-10.2*# Hct-28.4*# 
MCV-87 MCH-31.2 MCHC-35.9* RDW-12.8 Plt ___
___ 01:40AM BLOOD WBC-16.0* RBC-4.52* Hgb-13.9* Hct-39.8* 
MCV-88 MCH-30.8 MCHC-34.9 RDW-13.1 Plt ___
___ 02:30PM BLOOD Glucose-162* UreaN-12 Creat-0.8 Na-141 
K-3.9 Cl-105 HCO3-26 AnGap-14
___ 06:10AM BLOOD Glucose-113* UreaN-15 Creat-0.7 Na-140 
K-4.0 Cl-105 HCO3-28 AnGap-11
___ 01:40AM BLOOD Glucose-130* UreaN-17 Creat-1.0 Na-139 
K-4.4 Cl-103 HCO3-24 AnGap-16
___ 01:40AM BLOOD ___ PTT-26.5 ___
___ 06:10AM BLOOD Calcium-8.7 Mg-2.0
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ as noted in the HPI for 
hematuria after transurethral resection of his bladder mass. He 
is status post angioplasty ___ requiring ongoing Plavix and 
Aspirin administration. He presented to ED with hematuria less 
than 24hrs status post cystoscopy, TURBT, bladder fulgeration 
and a 3-way foley was placed and continuous bladder irrigation 
initiated. He was transferred to the general surgical floor 
where he was again hand irrigated with 7-litres of sterile water 
for multiple clots by ___. His urine output was 
monitored with continuous bladder irrigation, titrated to light 
pink. He was made NPO after midnight on date of admission 
pending further recommendations from patients cardiologist 
and/or Dr. ___. Intravenous antibiotics was started given the 
multiple manipulations and hand irrigations. His hospital course 
was complicated by the requirement of several hand irrigations 
for clots but by hospital day three, ultrasound of the bladder 
was obtained and demonstrated a large retained clot. He was then 
hand irrigated to clear by Chief Resident ___ and ___. 
CBI was continued overnight and titrated to off by hospital day 
four. The urine remained yellow with a tint of pink.  He was 
ambulated with the CBI off and his hematuria did not reoccur. He 
remained a-febrile throughout his hospital stay and at 
discharge, the patient had pain well controlled with oral pain 
medications, was tolerating regular diet, ambulating without 
assistance, and versed on foley care and waste elimination. He 
was given Pyridium and oral pain medications on 
discharge and a course of antibiotics along with explicit 
instructions to follow up in clinic with Dr. ___ foley 
removal and trial of void. 
 
Medications on Admission:
The patient's OMR Medication list (as of ___: 
atenolol 
clopidogrel 75 mg tablet 1 tablet(s) by mouth once a day  
nitroglycerin 
Crestor 40 mg tablet 1 tablet(s) by mouth qpm 
ascorbic acid [Vitamin C] 
aspirin 81 mg tablet,delayed release 1 tablet(s) by mouth once a 
day 
multivitamin capsule 1 capsule(s) by mouth once a day in evening 

omega 3-dha-epa-fish oil [Fish Oil] 
 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
5. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN pain 

6. Multivitamins W/minerals 1 TAB PO DAILY 
7. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN angina 
8. Rosuvastatin Calcium 40 mg PO QPM 
9. Senna 8.6 mg PO DAILY 
RX *sennosides [Senokot] 8.6 mg ONE tab by mouth daily Disp #*30 
Tablet Refills:*0
10. Ciprofloxacin HCl 500 mg PO Q12H Duration: 3 Days 
RX *ciprofloxacin 500 mg ONE tablet(s) by mouth twice a day Disp 
#*6 Tablet Refills:*0
11. Bacitracin Ointment 1 Appl TP QID urethral meatus 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria, clot obstruction/urinary retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You will be discharged home with the foley catheter in place 
and return early next week for foley removal, void trial.  You 
may gently flush as instructed by nursing if you are concerned 
for clots.

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up. Do NOT 
strain on the toilet for bowel movements. Avoid stools, bicycles 
and sitting on hard surfaces that put direct pressure on your 
perineum. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume all of your pre-admission medications unless otherwise 
explicitly noted

-Continue taking PROSCAR (Finasteride) AND/OR your other 
“prostate shrinking” medications until you are otherwise advised 
.

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Sennakot is a gentle laxative. Continue with this medication or 
similar gentle-laxative to avoid bowel straining. 

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks and while 
Foley catheter is in place. 

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthrough pain >4. 
Replace Tylenol with narcotic pain medication.

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery. Also, if the Foley catheter and Leg 
Bag are in place--Do NOT drive (you may be a passenger).

IF YOU ARE DISCHARGED HOME WITH A FOLEY CATHETER:
-Please refer to the provided nursing instructions and handout 
on Foley catheter care, waste elimination and leg bag usage.

-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

-Follow up in 1 week for wound check and Foley removal. DO NOT 
have anyone else other than your Surgeon remove your Foley for 
any reason.

-Wear Large Foley bag for majority of time, leg bag is only for 
short-term when leaving house.

 
Followup Instructions:
___